US07354939B2
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester:
To a degassed solution of 4-iodo-1-(toluene-4-sulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester (20 g, 49.4 mmol, 1.0 equivalent) and bis(pinacolato)diborane (15 g, 65 mmol, 1.3 equivalents) in DMF (200 mL) under nitrogen, was added dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (3.6 g, 4.9 mmol, 0.1 equivalent). The reaction mixture was then stirred at 80° C. for 18 hours. After removing the DMF under reduced pressure, the resulting thick oil residue was suspended in diethyl ether (500 mL) and a solid precipitated immediately. This solid was removed by filtration and the filtrate was washed with 1M HCl, water, brine and dried over MgSO4. Concentration afforded the title compound as a white solid and used without further purification (10 g, 50%). LC/MS: Rt(min) 4.6; 406.4 ES+. MS FIA: 406.2 ES+. 1HNMR δ 1.2 (s, 12H), 2.35 (s, 3H), 3.8 (s, 3H), 7.2 (m, 3H), 7.8 (d, 2H), 8.0 (s, 1H).

reactant | 4-iodo-1-(toluene-4-sulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | 49.4 mmol, 20 g, 1.0 equivalent | COC(=O)C=1N(C=C(C1)I)S(=O)(=O)C1=CC=C(C=C1)C | C13H12INO4S
reactant | bis(pinacolato)diborane | 65 mmol, 15 g, 1.3 equivalents | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 4.9 mmol, 3.6 g, 0.1 equivalent | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)B1OC(C(O1)(C)C)(C)C)S(=O)(=O)C1=CC=C(C=C1)C | C19H24BNO6S
